.subckt addf42_x1 S CO ICO A B C D CI VDD VSS
* Abstract subckt: behavioral/LVS placeholder — no MOS instances in the template.
XA42_X1_nr_PA0 pmid_A42_X1_nr_0 A VDD VDD pmos w=2u l=100n
XA42_X1_nr_PB0 x_nor_ab B pmid_A42_X1_nr_0 VDD pmos w=2u l=100n
XA42_X1_nr_NA0 x_nor_ab A VSS VSS nmos w=1u l=100n
XA42_X1_nr_NB0 x_nor_ab B VSS VSS nmos w=1u l=100n
XA42_X1_iv_P0 x_or_ab x_nor_ab VDD VDD pmos w=2u l=100n
XA42_X1_iv_N0 x_or_ab x_nor_ab VSS VSS nmos w=1u l=100n
XA42_X1_nd_PA0 x_nand_ab A VDD VDD pmos w=2u l=100n
XA42_X1_nd_PB0 x_nand_ab B VDD VDD pmos w=2u l=100n
XA42_X1_nd_NB0 x_nand_ab B nmid_A42_X1_nd_0 VSS nmos w=1u l=100n
XA42_X1_nd_NA0 nmid_A42_X1_nd_0 A VSS VSS nmos w=1u l=100n
XA42_X1_na_PA0 x_pre_ab x_or_ab VDD VDD pmos w=2u l=100n
XA42_X1_na_PB0 x_pre_ab x_nand_ab VDD VDD pmos w=2u l=100n
XA42_X1_na_NB0 x_pre_ab x_nand_ab nmid_A42_X1_na_0 VSS nmos w=1u l=100n
XA42_X1_na_NA0 nmid_A42_X1_na_0 x_or_ab VSS VSS nmos w=1u l=100n
XA42_X1_xo_P0 a42_xab x_pre_ab VDD VDD pmos w=2u l=100n
XA42_X1_xo_N0 a42_xab x_pre_ab VSS VSS nmos w=1u l=100n
XA42_X2_nr_PA0 pmid_A42_X2_nr_0 a42_xab VDD VDD pmos w=2u l=100n
XA42_X2_nr_PB0 x_nor_abc C pmid_A42_X2_nr_0 VDD pmos w=2u l=100n
XA42_X2_nr_NA0 x_nor_abc a42_xab VSS VSS nmos w=1u l=100n
XA42_X2_nr_NB0 x_nor_abc C VSS VSS nmos w=1u l=100n
XA42_X2_iv_P0 x_or_abc x_nor_abc VDD VDD pmos w=2u l=100n
XA42_X2_iv_N0 x_or_abc x_nor_abc VSS VSS nmos w=1u l=100n
XA42_X2_nd_PA0 x_nand_abc a42_xab VDD VDD pmos w=2u l=100n
XA42_X2_nd_PB0 x_nand_abc C VDD VDD pmos w=2u l=100n
XA42_X2_nd_NB0 x_nand_abc C nmid_A42_X2_nd_0 VSS nmos w=1u l=100n
XA42_X2_nd_NA0 nmid_A42_X2_nd_0 a42_xab VSS VSS nmos w=1u l=100n
XA42_X2_na_PA0 x_pre_abc x_or_abc VDD VDD pmos w=2u l=100n
XA42_X2_na_PB0 x_pre_abc x_nand_abc VDD VDD pmos w=2u l=100n
XA42_X2_na_NB0 x_pre_abc x_nand_abc nmid_A42_X2_na_0 VSS nmos w=1u l=100n
XA42_X2_na_NA0 nmid_A42_X2_na_0 x_or_abc VSS VSS nmos w=1u l=100n
XA42_X2_xo_P0 a42_xabc x_pre_abc VDD VDD pmos w=2u l=100n
XA42_X2_xo_N0 a42_xabc x_pre_abc VSS VSS nmos w=1u l=100n
XA42_X3_nr_PA0 pmid_A42_X3_nr_0 a42_xabc VDD VDD pmos w=2u l=100n
XA42_X3_nr_PB0 x_nor_sum D pmid_A42_X3_nr_0 VDD pmos w=2u l=100n
XA42_X3_nr_NA0 x_nor_sum a42_xabc VSS VSS nmos w=1u l=100n
XA42_X3_nr_NB0 x_nor_sum D VSS VSS nmos w=1u l=100n
XA42_X3_iv_P0 x_or_sum x_nor_sum VDD VDD pmos w=2u l=100n
XA42_X3_iv_N0 x_or_sum x_nor_sum VSS VSS nmos w=1u l=100n
XA42_X3_nd_PA0 x_nand_sum a42_xabc VDD VDD pmos w=2u l=100n
XA42_X3_nd_PB0 x_nand_sum D VDD VDD pmos w=2u l=100n
XA42_X3_nd_NB0 x_nand_sum D nmid_A42_X3_nd_0 VSS nmos w=1u l=100n
XA42_X3_nd_NA0 nmid_A42_X3_nd_0 a42_xabc VSS VSS nmos w=1u l=100n
XA42_X3_na_PA0 x_pre_sum x_or_sum VDD VDD pmos w=2u l=100n
XA42_X3_na_PB0 x_pre_sum x_nand_sum VDD VDD pmos w=2u l=100n
XA42_X3_na_NB0 x_pre_sum x_nand_sum nmid_A42_X3_na_0 VSS nmos w=1u l=100n
XA42_X3_na_NA0 nmid_A42_X3_na_0 x_or_sum VSS VSS nmos w=1u l=100n
XA42_X3_xo_P0 a42_xabcd x_pre_sum VDD VDD pmos w=2u l=100n
XA42_X3_xo_N0 a42_xabcd x_pre_sum VSS VSS nmos w=1u l=100n
XA42_X4_nr_PA0 pmid_A42_X4_nr_0 a42_xabcd VDD VDD pmos w=2u l=100n
XA42_X4_nr_PB0 x_nor_sum2 CI pmid_A42_X4_nr_0 VDD pmos w=2u l=100n
XA42_X4_nr_NA0 x_nor_sum2 a42_xabcd VSS VSS nmos w=1u l=100n
XA42_X4_nr_NB0 x_nor_sum2 CI VSS VSS nmos w=1u l=100n
XA42_X4_iv_P0 x_or_sum2 x_nor_sum2 VDD VDD pmos w=2u l=100n
XA42_X4_iv_N0 x_or_sum2 x_nor_sum2 VSS VSS nmos w=1u l=100n
XA42_X4_nd_PA0 x_nand_sum2 a42_xabcd VDD VDD pmos w=2u l=100n
XA42_X4_nd_PB0 x_nand_sum2 CI VDD VDD pmos w=2u l=100n
XA42_X4_nd_NB0 x_nand_sum2 CI nmid_A42_X4_nd_0 VSS nmos w=1u l=100n
XA42_X4_nd_NA0 nmid_A42_X4_nd_0 a42_xabcd VSS VSS nmos w=1u l=100n
XA42_X4_na_PA0 x_pre_sum2 x_or_sum2 VDD VDD pmos w=2u l=100n
XA42_X4_na_PB0 x_pre_sum2 x_nand_sum2 VDD VDD pmos w=2u l=100n
XA42_X4_na_NB0 x_pre_sum2 x_nand_sum2 nmid_A42_X4_na_0 VSS nmos w=1u l=100n
XA42_X4_na_NA0 nmid_A42_X4_na_0 x_or_sum2 VSS VSS nmos w=1u l=100n
XA42_X4_xo_P0 S x_pre_sum2 VDD VDD pmos w=2u l=100n
XA42_X4_xo_N0 S x_pre_sum2 VSS VSS nmos w=1u l=100n
XA42_AB_PA0 a42_ab_n A VDD VDD pmos w=2u l=100n
XA42_AB_PB0 a42_ab_n B VDD VDD pmos w=2u l=100n
XA42_AB_NB0 a42_ab_n B nmid_A42_AB_0 VSS nmos w=1u l=100n
XA42_AB_NA0 nmid_A42_AB_0 A VSS VSS nmos w=1u l=100n
XA42_AC_PA0 a42_ac_n A VDD VDD pmos w=2u l=100n
XA42_AC_PB0 a42_ac_n C VDD VDD pmos w=2u l=100n
XA42_AC_NB0 a42_ac_n C nmid_A42_AC_0 VSS nmos w=1u l=100n
XA42_AC_NA0 nmid_A42_AC_0 A VSS VSS nmos w=1u l=100n
XA42_BC_PA0 a42_bc_n B VDD VDD pmos w=2u l=100n
XA42_BC_PB0 a42_bc_n C VDD VDD pmos w=2u l=100n
XA42_BC_NB0 a42_bc_n C nmid_A42_BC_0 VSS nmos w=1u l=100n
XA42_BC_NA0 nmid_A42_BC_0 B VSS VSS nmos w=1u l=100n
XA42_ABI_P0 a42_ab a42_ab_n VDD VDD pmos w=2u l=100n
XA42_ABI_N0 a42_ab a42_ab_n VSS VSS nmos w=1u l=100n
XA42_ACI_P0 a42_ac a42_ac_n VDD VDD pmos w=2u l=100n
XA42_ACI_N0 a42_ac a42_ac_n VSS VSS nmos w=1u l=100n
XA42_BCI_P0 a42_bc a42_bc_n VDD VDD pmos w=2u l=100n
XA42_BCI_N0 a42_bc a42_bc_n VSS VSS nmos w=1u l=100n
XA42_ICO1_PA0 pmid_A42_ICO1_0 a42_ab VDD VDD pmos w=2u l=100n
XA42_ICO1_PB0 a42_ico_or_n a42_ac pmid_A42_ICO1_0 VDD pmos w=2u l=100n
XA42_ICO1_NA0 a42_ico_or_n a42_ab VSS VSS nmos w=1u l=100n
XA42_ICO1_NB0 a42_ico_or_n a42_ac VSS VSS nmos w=1u l=100n
XA42_ICO1I_P0 a42_ico_or a42_ico_or_n VDD VDD pmos w=2u l=100n
XA42_ICO1I_N0 a42_ico_or a42_ico_or_n VSS VSS nmos w=1u l=100n
XA42_ICO2_PA0 pmid_A42_ICO2_0 a42_ico_or VDD VDD pmos w=2u l=100n
XA42_ICO2_PB0 a42_ico_n a42_bc pmid_A42_ICO2_0 VDD pmos w=2u l=100n
XA42_ICO2_NA0 a42_ico_n a42_ico_or VSS VSS nmos w=1u l=100n
XA42_ICO2_NB0 a42_ico_n a42_bc VSS VSS nmos w=1u l=100n
XA42_ICO_P0 ICO a42_ico_n VDD VDD pmos w=2u l=100n
XA42_ICO_N0 ICO a42_ico_n VSS VSS nmos w=1u l=100n
XA42_PD_PA0 a42_pd_n a42_xabc VDD VDD pmos w=2u l=100n
XA42_PD_PB0 a42_pd_n D VDD VDD pmos w=2u l=100n
XA42_PD_NB0 a42_pd_n D nmid_A42_PD_0 VSS nmos w=1u l=100n
XA42_PD_NA0 nmid_A42_PD_0 a42_xabc VSS VSS nmos w=1u l=100n
XA42_PC_PA0 a42_pc_n a42_xabc VDD VDD pmos w=2u l=100n
XA42_PC_PB0 a42_pc_n CI VDD VDD pmos w=2u l=100n
XA42_PC_NB0 a42_pc_n CI nmid_A42_PC_0 VSS nmos w=1u l=100n
XA42_PC_NA0 nmid_A42_PC_0 a42_xabc VSS VSS nmos w=1u l=100n
XA42_DC_PA0 a42_dc_n D VDD VDD pmos w=2u l=100n
XA42_DC_PB0 a42_dc_n CI VDD VDD pmos w=2u l=100n
XA42_DC_NB0 a42_dc_n CI nmid_A42_DC_0 VSS nmos w=1u l=100n
XA42_DC_NA0 nmid_A42_DC_0 D VSS VSS nmos w=1u l=100n
XA42_PDI_P0 a42_pd a42_pd_n VDD VDD pmos w=2u l=100n
XA42_PDI_N0 a42_pd a42_pd_n VSS VSS nmos w=1u l=100n
XA42_PCI_P0 a42_pc a42_pc_n VDD VDD pmos w=2u l=100n
XA42_PCI_N0 a42_pc a42_pc_n VSS VSS nmos w=1u l=100n
XA42_DCI_P0 a42_dc a42_dc_n VDD VDD pmos w=2u l=100n
XA42_DCI_N0 a42_dc a42_dc_n VSS VSS nmos w=1u l=100n
XA42_CO1_PA0 pmid_A42_CO1_0 a42_pd VDD VDD pmos w=2u l=100n
XA42_CO1_PB0 a42_co_or_n a42_pc pmid_A42_CO1_0 VDD pmos w=2u l=100n
XA42_CO1_NA0 a42_co_or_n a42_pd VSS VSS nmos w=1u l=100n
XA42_CO1_NB0 a42_co_or_n a42_pc VSS VSS nmos w=1u l=100n
XA42_CO1I_P0 a42_co_or a42_co_or_n VDD VDD pmos w=2u l=100n
XA42_CO1I_N0 a42_co_or a42_co_or_n VSS VSS nmos w=1u l=100n
XA42_CO2_PA0 pmid_A42_CO2_0 a42_co_or VDD VDD pmos w=2u l=100n
XA42_CO2_PB0 a42_co_n a42_dc pmid_A42_CO2_0 VDD pmos w=2u l=100n
XA42_CO2_NA0 a42_co_n a42_co_or VSS VSS nmos w=1u l=100n
XA42_CO2_NB0 a42_co_n a42_dc VSS VSS nmos w=1u l=100n
XA42_CO_P0 CO a42_co_n VDD VDD pmos w=2u l=100n
XA42_CO_N0 CO a42_co_n VSS VSS nmos w=1u l=100n
.ends addf42_x1
